US08314121B2
Add, at 0° C., 1 g of 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde, then 0.27 g of sodium hydride to 10 cm3 of anhydrous tetrahydrofuran. Stir the reaction mixture for fifteen minutes at 0° C. before adding 1.87 g of tosyl chloride in solution in 1.7 cm3 of tetrahydrofuran. Continue stirring the reaction mixture for two hours, allowing it to return to room temperature. Pour the reaction mixture into 100 cm3 of iced water. Extract the mixture obtained with two times 100 cm3 of ethyl acetate. Dry the organic phases over magnesium sulphate and then evaporate to dryness under vacuum in a rotary evaporator. 1.32 g of 5-bromo-1-[(4-methylphenyl)sulphonyl]-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde is obtained in the form of a beige powder with the following physical characteristics:

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 1 g | BrC=1C=C2C(=NC1)NC=C2C=O | C8H5BrN2O
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | tosyl chloride | 1.87 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 100 cm3 | O | H2O
solvent | tetrahydrofuran | 1.7 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 cm3 | O1CCCC1 | C4H8O
product | 5-bromo-1-[(4-methylphenyl)sulphonyl]-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 1.32 g | BrC=1C=C2C(=NC1)N(C=C2C=O)S(=O)(=O)C2=CC=C(C=C2)C | C15H11BrN2O3S
